US06617339B1
Diisopropylethylamine (0.39 ml, 2.24 mmol) was added dropwise to a stirred solution at 5° C. under nitrogen of 5(R)-1,2,5-thiadiazol-3-yloxymethyl-3-(4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3-fluorophenyl)oxazolidin-2-one (3.48 g, 7.47 mmol) in dichloromethane (60 ml), followed by 1-chloroethyl chloroforrnate (1.05 ml, 9.73 mmol). The mixture was stirred at 5° C. for 2 hours and the intermediate carbamate was freed from benzyl chloride by flash-column chromatography (silica gel. Merck 7736), eluting with a gradient of 10-30% EtOAc in isohexane. The carbamate was heated in refluxing MeOH (40 ml) for 1 hour. Solvent was evaporated and the residue triturated with ether to give 5(R)-1,2,5-thiadiazol-3-yloxymethyl-3-(3-fluoro-4-(1,2,5,6-tetrahydropyrid-4-yl)phenyl)oxazolidin-2-one hydrochloride as a solid in 82% yield MS: 376 (MH+)(free base); NMR; 2.67 (2H, s); 3.3 (2H+DMSO); 3.75 (2H, s); 4.0 (1H, m); 4.25 (1H, t); 4.7 (2H, m); 5.14 (1H, m); 6.05 (1H, s); 7.4 (2H, m): 7.55 (1H, d); 8.42 (1H, s); 9.35 (1H, bs).

reactant | Diisopropylethylamine | 2.24 mmol, 0.39 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5(R)-1,2,5-thiadiazol-3-yloxymethyl-3-(4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)-3-fluorophenyl)oxazolidin-2-one | 7.47 mmol, 3.48 g | S1N=C(C=N1)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCN(CC1)CC1=CC=CC=C1)F | C24H23FN4O3S
reactant | 1-chloroethyl chloroforrnate | 9.73 mmol, 1.05 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | carbamate | C(N)([O-])=O
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 5(R)-1,2,5-thiadiazol-3-yloxymethyl-3-(3-fluoro-4-(1,2,5,6-tetrahydropyrid-4-yl)phenyl)oxazolidin-2-one hydrochloride | 82% yield | Cl.S1N=C(C=N1)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCNCC1)F | InChI=1S/C17H17FN4O3S.ClH/c18-15-7-12(1-2-14(15)11-3-5-19-6-4-11)22-9-13(25-17(22)23)10-24-16-8-20-26-21-16;/h1-3,7-8,13,19H,4-6,9-10H2;1H/t13-;/m1./s1
